2193-02-12 10:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2193-2-11**] 05:00 PM
 EKG - At [**2193-2-11**] 06:45 PM
 ARTERIAL LINE - START [**2193-2-11**] 08:00 PM
   - Per nursing home ([**Telephone/Fax (1) 11149**]): B/l past 6 months she is nonverbal
   (in any language) though occasionally grunts/groans. No longer
   recognizing family or caregivers. [**Name (NI) **], responds to painful stimuli at
   b/l.
   - A line
   - 6 Liters in at 22:00, still hypotensive, so starting Levophed
   - Levophed d/c'd at 02:00
   - Hct 37.5 -> 5 liters NS -> 26.1. Guiac -. Likely dilutional.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2193-2-11**] 08:34 PM
   Ciprofloxacin - [**2193-2-11**] 10:23 PM
   Cefipime - [**2193-2-12**] 06:41 AM
   Metronidazole - [**2193-2-12**] 06:41 AM
   Vancomycin - [**2193-2-12**] 08:00 AM
   Ampicillin - [**2193-2-12**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-12**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.9
C (98.4
   HR: 85 (65 - 98) bpm
   BP: 134/67(87) {88/46(57) - 134/67(87)} mmHg
   RR: 27 (18 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,555 mL
                                                                    962 mL
   PO:
             TF:
   IVF:
                                                                  4,555 mL
                                                                    962 mL
   Blood products:
   Total out:
                                                                    285 mL
                                                                    580 mL
   Urine:
                                                                    285 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,270 mL
                                                                    382 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   223 K/uL
   8.7 g/dL
   117 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.7 mEq/L
   25 mg/dL
   118 mEq/L
   146 mEq/L
   26.4 %
   7.2 K/uL
        [image002.jpg]
                             [**2193-2-11**]  05:50 PM
                             [**2193-2-11**]  09:02 PM
                             [**2193-2-11**]  11:45 PM
                             [**2193-2-12**]  04:16 AM
   WBC
   7.2
   Hct
   29.1
   26.1
   26.3
   26.4
   Plt
   223
   Cr
   0.6
   TropT
   0.11
   0.09
   0.11
   Glucose
   117
   Other labs: CK / CKMB / Troponin-T:89//0.11, ALT / AST:[**12-1**], Alk Phos
   / T Bili:53/0.2, Lactic Acid:1.8 mmol/L, Ca++:9.0 mg/dL, Mg++:3.2
   mg/dL, PO4:3.1 mg/dL
   Imaging: [**2-12**] CXR: Pending
   [**2-12**] TTE: Pending
   [**2-11**] KUB (Prelim read): Evaluation limited by patient motion.
   Nonspecific bowel gas pattern with stool and gas in rectum. No dilated
   loops of bowel. Residual oral contrast throughout large bowel.
   [**2-11**] CXR #2: No pneumothorax. Low lung volumes with probable left
   basilar
   atelectasis
   [**2-11**] CXR #1: Markedly limited chest radiograph without definite signs
   of
   pneumonia or CHF. Probable left basilar atelectasis. If there is strong
   clinical concern, recommend repeat study with a more optimized
   technique to further assess.
   Microbiology: [**2-11**] Influenza: DIRECT INFLUENZA A/B: inadequate sample
      Respiratory Viral Culture (Pending):
   Assessment and Plan: 70 y/o F PMH DM, HTN, right CVA with residual
   aphasia and left sided hemiplegia admitted from nursing home for
   fevers, tachycardia and tachypnea.
   .
   # Fevers: Unable to obtain history from patient to narrow source. Ua
   negative. CXR no overt infiltrate, other than left basilar atelactasis.
   Blood cultures sent. Patient with recent C. Diff infection, abdominal
   exam soft but moderately distended. Moderate distension similiar to
   prior admission when CT scan was done. Unable to assess menigitic
   symptoms -mental status unresponsive at baseline (confirmed with
   nursing home), unable to assess nucchal rigidity on exam. Nasal swab
   for influenza was an inadequate swab.
   - Due to health care exposure broaden antibiotics to Vancomycin and
   Cipro. Anaerobic coverage with metronidazole due to aspriation risk and
   foul smelling breath on admission. Also c/w ampicillin and cefepime at
   meningitic doses
   - Follow-up blood culture and urine culture
   - Repeat CXR this afternoon following fluid resuscitation
   - Send sputum culture via nasotracheal suction
   - Order stool culture if has bowel movements
   - Repeat nasal swab for influenza
   - KUB to eval for megacolon in setting of recent c. diff infection and
   moderate distension on exam
   - Consider LP
   .
   # Hypotension: Evidence of shock with elevated lactate and creatinine.
   Lactate improved with 3 L NS. Differential most likely septic shock in
   setting of fevers vs. hypovolemic shock.
   - Infectious work-up as above
   - Aggressive fluid resuscitation
   - Add pressors if MAP < 60
   - Awaiting TTE findings, trend troponins to eval cardiogenic shock
   - Trend lactate
   - Further resuscitation with RBC vs LR
   .
   # Acute kidney injury: Creatine returned to baseline, after aggressive
   fluid resusciation
   - Follow urine output
   .
   # Tachypnea: Appears to be chronic problem, felt to be central process.
   Unlikely PE as patient on lovenox doses at nursing home for DVT ppx.
   CXR no overt infiltrate, effusions. No suggestion of heart failure on
   exam. While examining patient with notable upper airway sounds
   suggestive of sleep apnea. Based on VBG appears to be respiratory
   acidosis with compensation.
   - ABG to assess acid-base status
   - KUB to assess for abdominal etiology (obstruction, megacolon)
   - Consider CPAP treatment at night, however patient appears to be
   intermittently sleeping throughout the day.
   .
   # Anemia: 29 from 37.5 most likely dilutional. Guaiac negative on
   rectal exam. However, clotted blood around PEG tube. Unlikely
   significant GI bleed resulting in tachypnea.
   - Active type and screen
   - Repeat HCT to monitor stability
   .
   # DM type II: Order sliding scale.
   .
   # Hypertension: Hold outpatient Lisinopril, Metoprolol
   .
   # CVA: LFTs stable
   - Restart statin, ASA
   .
   # Dementia: Continue amantadine.
   .
   # Med Rec: Hold reglan for now.
   .
   # FEN: aggressive IVF, replete electrolytes, NPO
   - Nutrition recs for tube feeds
   # Prophylaxis: Subcutaneous heparin TID, bowel reg
   # Access: femoral line, arterial line
   # Communication: Patient
   # Code:  Full (discussed with HCP)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-2-11**] 05:00 PM
   Arterial Line - [**2193-2-11**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-02-12 10:36:00 Physician Attending Progress Note
Chief Complaint: fever
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2193-2-11**] 05:00 PM
 EKG - At [**2193-2-11**] 06:45 PM
 ARTERIAL LINE - START [**2193-2-11**] 08:00 PM
   - Admitted to ICU
   - Tmax 104 R in ED
   - Borderline BP --> given 4 L NS
   - aline placed
   - Levophed started at 10 PM, weaned off
   - Afebrile in ICU
   History obtained from Family / [**Hospital 380**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2193-2-11**] 08:34 PM
   Ciprofloxacin - [**2193-2-11**] 10:23 PM
   Cefipime - [**2193-2-12**] 06:41 AM
   Metronidazole - [**2193-2-12**] 06:41 AM
   Vancomycin - [**2193-2-12**] 08:00 AM
   Ampicillin - [**2193-2-12**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   RISS
   heparin sq
   cipro
   vanco
   amantadine
   colace
   levophed (OFF)
   flagyl
   ampicillin
   cefepime
   zosyn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2193-2-12**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.9
C (98.4
   HR: 85 (65 - 98) bpm
   BP: 134/67(87) {88/46(57) - 134/67(87)} mmHg
   RR: 27 (18 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  6,555 mL
                                                                    961 mL
   PO:
             TF:
   IVF:
                                                                  4,555 mL
                                                                    961 mL
   Blood products:
   Total out:
                                                                    285 mL
                                                                    580 mL
   Urine:
                                                                    285 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,270 mL
                                                                    381 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: L enucleation
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Non -purposeful,
   Tone: Increased
   Labs / Radiology
   8.7 g/dL
   223 K/uL
   117 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.7 mEq/L
   25 mg/dL
   118 mEq/L
   146 mEq/L
   26.4 %
   7.2 K/uL
        [image002.jpg]
                             [**2193-2-11**]  05:50 PM
                             [**2193-2-11**]  09:02 PM
                             [**2193-2-11**]  11:45 PM
                             [**2193-2-12**]  04:16 AM
   WBC
   7.2
   Hct
   29.1
   26.1
   26.3
   26.4
   Plt
   223
   Cr
   0.6
   TropT
   0.11
   0.09
   0.11
   Glucose
   117
   Other labs: CK / CKMB / Troponin-T:89//0.11, ALT / AST:[**12-1**], Alk Phos
   / T Bili:53/0.2, Lactic Acid:1.8 mmol/L, Ca++:9.0 mg/dL, Mg++:3.2
   mg/dL, PO4:3.1 mg/dL
   Fluid analysis / Other labs: 7.3/54/49 venous gas
   Imaging:
   CXR: ? R ML infiltrate
   Microbiology: Blood cx:
   Urine cx:
   Assessment and Plan
 HYPERGLYCEMIA
 HYPOTHERMIA
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   Fever: Unclear source. DDx: PNA (? Blossoming RML infiltrate)
 flu swab
 sputum cx
 urine cx
 Was covered overnight for CNS infection pending further discussion
   for CT/LP
 will hold for now
 ABX: cefepime+vanco+amp+flagyl+cipro
 hx Cdiff tx recently so resend
   Hypotension: Likely septic shock, resolving. Lactate cleared after IVF,
   now off pressors.
 TTE
 follow lactates
 CVP = check from femoral line
 Bolus with LR given elevated chloride
 If hypotensive with Hct <30, transfuse x 1 [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]
   [**Last Name (un) 2406**]: Cr up from baseline initially, resolved with fluids
 follow
   Anemia: likely diluational in setting of 5+ L NS
 follow hcts
 guaiac all stools
 transfuse to 30 if hypotensive, e/o poor perfusion
   CAD: restart statin
 trop indeterminate but CKs flat
   ICU Care
   Nutrition: NPO for now
 Nutrition recs for TF
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-2-11**] 05:00 PM
   Arterial Line - [**2193-2-11**] 08:00 PM
   Prophylaxis:
   DVT: sqh
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: with husband
   [**Name (NI) 129**] status: Full code
   Disposition :  ICU
   Total time spent:  35 mins

2193-02-13 07:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2193-2-12**] 10:30 AM
   repeat for influenza
 STOOL CULTURE - At [**2193-2-12**] 03:00 PM
 LUMBAR PUNCTURE - At [**2193-2-12**] 08:30 PM
   .
   - Influenza DFA neg
   - Head CT: No ICH or large territory infarct. Cephalomalacia and prom
   vent/sulci unchanged
   - CSF gram stain neg for organisms, but high protein/glucose -->
   started empiric acyclovir @ 10 mg/kg/dose Q8 hrs x 7 days. Added on HSV
   PCR
   - ECHO: Mild concentric LVH w/ small cavity and hyperdynamic left
   ventricular function resulting in mild outflow tract obstruction.
   Hyperdynamic, no akinesis/hypokinesis etc.
   - Hct 26.4 --> 25.1
   - Restarted simvastatin
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2193-2-11**] 08:34 PM
   Vancomycin - [**2193-2-12**] 08:00 AM
   Ciprofloxacin - [**2193-2-12**] 08:31 PM
   Cefipime - [**2193-2-12**] 11:41 PM
   Acyclovir - [**2193-2-13**] 12:18 AM
   Metronidazole - [**2193-2-13**] 01:31 AM
   Ampicillin - [**2193-2-13**] 04:44 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-2-12**] 11:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-13**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.1
   HR: 87 (80 - 94) bpm
   BP: 137/58(81) {103/50(68) - 144/70(92)} mmHg
   RR: 29 (18 - 40) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,266 mL
                                                                    808 mL
   PO:
             TF:
                                                                    130 mL
                                                                    154 mL
   IVF:
                                                                  2,136 mL
                                                                    604 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    420 mL
   Urine:
                                                                  1,350 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    916 mL
                                                                    388 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.41/33/196/21/-2
   Physical Examination
   General Appearance: Well nourished, No(t) Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   209 K/uL
   8.2 g/dL
   228 mg/dL
   0.5 mg/dL
   21 mEq/L
   4.1 mEq/L
   13 mg/dL
   113 mEq/L
   141 mEq/L
   24.9 %
   4.8 K/uL
        [image002.jpg]
                             [**2193-2-11**]  05:50 PM
                             [**2193-2-11**]  09:02 PM
                             [**2193-2-11**]  11:45 PM
                             [**2193-2-12**]  04:16 AM
                             [**2193-2-12**]  11:43 AM
                             [**2193-2-13**]  12:01 AM
                             [**2193-2-13**]  12:24 AM
                             [**2193-2-13**]  04:17 AM
                             [**2193-2-13**]  04:31 AM
   WBC
   7.2
   4.8
   Hct
   29.1
   26.1
   26.3
   26.4
   25.1
   25.3
   24.9
   Plt
   223
   209
   Cr
   0.6
   0.5
   TropT
   0.11
   0.09
   0.11
   TCO2
   20
   22
   Glucose
   117
   228
   Other labs: CK / CKMB / Troponin-T:89//0.11, ALT / AST:[**12-1**], Alk Phos
   / T Bili:53/0.2, Lactic Acid:3.3 mmol/L, Ca++:8.8 mg/dL, Mg++:2.1
   mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   70 y/o F PMH DM, HTN, right CVA with residual aphasia and left sided
   hemiplegia admitted from nursing home for fevers, tachycardia and
   tachypnea.
   .
   # Fevers: Unable to obtain history from patient to narrow source. Ua
   negative. CXR no overt infiltrate, other than left basilar atelactasis.
   Blood cultures sent. Patient with recent C. Diff infection, abdominal
   exam soft but moderately distended. Moderate distension similiar to
   prior admission when CT scan was done. Unable to assess menigitic
   symptoms -mental status unresponsive at baseline (confirmed with
   nursing home), unable to assess nucchal rigidity on exam. Nasal swab
   for influenza neg. Sputum unable to be induced sufficiently. Cdiff
   pending. CSF cultures pending. KUB showed constipation
   - Due to health care exposure, continue with broad spectrum coverage
   (Cefeime, Vanc, Ampicillin, Flagyl, Cipro
 amp/cefepime at meningitic
   doses). Added on Acyclovir yesterday given CSF findings.
   - Follow-up blood culture and urine culture (NGTD); also follow-up CSF
   cultures
   .
   # Hypotension: Evidence of shock with elevated lactate and creatinine.
   Lactate improved with 3 L NS. Differential most likely septic shock in
   setting of fevers vs. hypovolemic shock. Now resolved
   - Infectious work-up as above
   - Aggressive fluid resuscitation
   - Add pressors if MAP < 60
   - Trend lactate
   - Further resuscitation with RBC vs LR
   .
   # Acute kidney injury: Creatine returned to baseline, after aggressive
   fluid resusciation
   - Follow urine output
   .
   # Tachypnea: Appears to be chronic problem, felt to be central process.
   Unlikely PE as patient on lovenox doses at nursing home for DVT ppx.
   CXR no overt infiltrate, effusions. No suggestion of heart failure on
   exam. While examining patient with notable upper airway sounds
   suggestive of sleep apnea. Based on VBG appears to be respiratory
   acidosis with compensation.
   - ABG to assess acid-base status; improved with 2L NC
   - Consider CPAP treatment at night, however patient appears to be
   intermittently sleeping throughout the day.
   .
   # Anemia: 24.9 from 37.5 most likely dilutional. Guaiac negative on
   rectal exam. However, clotted blood around PEG tube. Unlikely
   significant GI bleed resulting in tachypnea.
   - Active type and screen
   - Repeat HCT to monitor stability
   .
   # DM type II: Order sliding scale.
   .
   # Hypertension: Hold outpatient Lisinopril, Metoprolol
   .
   # CVA: LFTs stable
   - Restart statin, ASA
   .
   # Dementia: Continue amantadine.
   .
   # Med Rec: Hold reglan for now.
   .
   # FEN: aggressive IVF, replete electrolytes, NPO
   - Nutrition recs for tube feeds
   # Prophylaxis: Subcutaneous heparin TID, bowel reg
   # Access: femoral line, arterial line
   # Communication: Patient
   # Code:  Full (discussed with HCP)
   # Disposition: ICU pending clinical improvement
 ANEMIA, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERGLYCEMIA
 HYPOTHERMIA
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2193-2-12**] 05:30 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-2-11**] 05:00 PM
   Arterial Line - [**2193-2-11**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: